US08084483B2
A solution of 1-cyclopropyl-4-nitronaphthalene (5 g, 23 mmol) in ethanol (200 mL) was stirred under hydrogen in the presence of Pd/C (10% net, 10.8 g). The reaction mixture was shaken overnight, filtered over celite, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to yield 1-amino-4-cyclopropylnaphthalene (3.1 g, 73%).

reactant | 1-cyclopropyl-4-nitronaphthalene | 23 mmol, 5 g | C1(CC1)C1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C13H11NO2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Pd/C | 10.8 g | [Pd] | Pd
product | 1-amino-4-cyclopropylnaphthalene | 3.1 g, 73% | NC1=CC=C(C2=CC=CC=C12)C1CC1 | C13H13N
